US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(3-methoxyphenyl)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.52 g) was coupled to 4-(3-methoxyphenyl)piperidine (0.41 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in Example 8 to afford the title compound (0.16 g); mp 210°-220° C.; MS: m/z=523(M+1); NMR(CD3SOCD3): 1.98-2.1 (m,4), 2.79 (m,2), 3.06 (s,3), 3.7 (s,3), 4.87 (d,1, J=3.2), 6.8 (m,4), 6.98 (s,1), 7.23-7.35 (m,2), 7.5 (s,2), 7.65 (m,1), 7.95 (d,1, J=7.5). Analysis for C30H32Cl2N2O2.1.5 HCl: Calculated: C, 62.32; H, 5.84; N, 4.85; Found: C, 62.51; H, 5.77; N, 4.76.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.52 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)C | C18H15Cl2NO2
reactant | 4-(3-methoxyphenyl)piperidine | 0.41 g | COC=1C=C(C=CC1)C1CCNCC1 | C12H17NO
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(3-methoxyphenyl)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.16 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C1=CC(=CC=C1)OC)C1N(C(C2=CC=CC=C12)=O)C | InChI=1S/C30H32Cl2N2O2.ClH/c1-33-29(25-8-3-4-9-26(25)30(33)35)24(22-10-11-27(31)28(32)19-22)14-17-34-15-12-20(13-16-34)21-6-5-7-23(18-21)36-2;/h3-11,18-20,24,29H,12-17H2,1-2H3;1H
